US04124596
N,N'-Carbonyldiimidazole (3.8 g) is added to 2-{3-(thieno[2,3-b]thien-2-yl)carbonyl-phenyl}propionic acid (7.25 g) [prepared as described in a previous Example] in solution in diethyl ether (70 cc). When the evolution of gas has ceased, 2-dimethylaminoethylamine (2.1 g) in solution in diethyl ether (25 cc) is then added. After 20 hours at 25° C., the reaction mixture is evaporated. The residue, dissolved in methylene chloride (100 cc), is washed four times with a 5% (w/v) aqueous sodium chloride solution (total 400 cc), dried over anhydrous sodium sulphate in the presence of decolourizing charcoal (0.5 g), filtered and evaporated. The oil obtained (5.4 g) is dissolved in N aqueous hydrochloric acid solution (50 cc). This solution is washed three times with diethyl ether (total 150 cc) and then rendered alkaline to pH 11 by the addition of 1N aqueous sodium hydroxide solution (55 cc). The resulting precipitate is extracted three times with methylene chloride (total 150 cc). The combined methylene chloride solutions are washed three times with distilled water (total 150 cc), dried over anhydrous sodium sulphate in the presence of decolourizing charcoal (0.5 g), filtered and evaporated. N-(2-Dimethylaminoethyl) 2-{3-(thieno-[2,3-b]thien-2-yl)carbonyl-phenyl}propionamide (3.3 g), in the form of an oil, is thus obtained.

reactant | 2-{3-(thieno[2,3-b]thien-2-yl)carbonyl-phenyl}propionic acid | 7.25 g | S1C(=CC2=C1SC=C2)C(=O)C=2C=C(C=CC2)C(C(=O)O)C | C16H12O3S2
reactant | 2-dimethylaminoethylamine | 2.1 g | CN(CCN)C | C4H12N2
solvent | diethyl ether | 70 cc | C(C)OCC | C4H10O
solvent | diethyl ether | 25 cc | C(C)OCC | C4H10O
solvent | hydrochloric acid | 50 cc | Cl | ClH
product | N-(2-Dimethylaminoethyl) 2-{3-(thieno-[2,3-b]thien-2-yl)carbonyl-phenyl}propionamide | 3.3 g | CN(CCNC(C(C)C1=CC(=CC=C1)C(=O)C1=CC2=C(SC=C2)S1)=O)C | C20H22N2O2S2
